US08058269B2
Preparation of rac-2-[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yloxy]-3-isopropyl-benzoic acid
From 2-hydroxyl-3-isopropyl benzoic acid and rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one, the title compound was prepared following the similar procedure as rac-3-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-benzoic acid. MS: [M−H]−=468

reactant | 2-hydroxyl-3-isopropyl benzoic acid | OC1=C(C(=O)O)C=CC=C1C(C)C | C10H12O3
reactant | rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | BrC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10BrCl2NO
reactant | rac-3-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-benzoic acid | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)NC=1C=C(C(=O)O)C=CC1 | C22H16Cl2N2O3
product | rac-2-[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yloxy]-3-isopropyl-benzoic acid | ClC1=CC=C2C(C(NC2=C1)=O)(OC1=C(C(=O)O)C=CC=C1C(C)C)CC1=CC(=CC=C1)Cl | C25H21Cl2NO4
